US04678855
4-(2-Hydroxyethylthio)-3-nitrobenzenesulfonamide
A mixture of 2-mercaptoethanol (1.66 g, 0.02 mol), anhydrous sodium acetate (2 g) and 4-chloro-3-nitrobenzenesulfonamide (2.37 g, 0.01 mol) was heated on the steam bath for about 5 hours. The reaction mixture was diluted with water, acidified with 6N hydrochloric acid and cooled. Filtration and drying gave 2.11 g of a yellow solid that was recrystallized from ethyl acetate, m.p. 150°-152° C.

reactant | 2-mercaptoethanol | 0.02 mol, 1.66 g | SCCO | C2H6OS
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
reactant | 4-chloro-3-nitrobenzenesulfonamide | 0.01 mol, 2.37 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | O | H2O
product | 4-(2-Hydroxyethylthio)-3-nitrobenzenesulfonamide | 2.11 g | OCCSC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C8H10N2O5S2
